US05210092
To a solution of dimethylsulfoxide (64 ml) was added sodium hydride (480 mg, 60% oil dispersion) at ambient temperature. The suspension was stirred at 60° C. for 50 minutes to give a clear solution. To the cooled solution was added methyltriphenylphosphonium bromide (4.29 g) at ambient temperature in one portion. The mixture was stirred at ambient temperature for half an hour and at 50° C. for half an hour. The yellow mixture was cooled to ambient temperature and therein 1-(4-ethoxycarbonylphenyl)-4-formylpyrrole-2-carbonitrile (2.68 g) was added in one portion. After stirring at ambient temperature for one and half hours, the mixture was quenched with aqueous hydrochloric acid and extracted with dichloromethane. The organic layer was washed with aqueous hydrochloric acid three times, dried, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluted by 20% n-hexane in dichloromethane to yield 1-(4-ethoxycarbonylphenyl)-4-vinylpyrrole-2-carbonitrile (1.80 g) as a white solid.

reactant | sodium hydride | 480 mg | [H-].[Na+]
reactant | 1-(4-ethoxycarbonylphenyl)-4-formylpyrrole-2-carbonitrile | 2.68 g | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC(=C1)C=O)C#N | C15H12N2O3
reactant | dimethylsulfoxide | 64 ml | CS(=O)C | C2H6OS
catalyst | methyltriphenylphosphonium bromide | 4.29 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(4-ethoxycarbonylphenyl)-4-vinylpyrrole-2-carbonitrile | 1.80 g | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC(=C1)C=C)C#N | C16H14N2O2
